US04080207
3-[4-( 2-Acetylhydrazino)phenyl]-4-phenyl-4-thiazoline-2-thione
3-[4-(2-Acetylhydrazino)phenyl]-4-hydroxy-4-phenyl-thiazolidine-2-thione (1.0 g, 0.0028 mole) was added to water (25 ml) and methanol (5 ml). Concentrated hydrochloric acid (2 drops) was added; and the resulting mixture was stirred and heated at 80° C for 3 hours. The reaction mixture was chilled in ice, and the solid was filtered off. The product was washed with water, then ether, and allowed to dry. Yield 0.80 g (84%), m.p. 230°-232° C.

reactant | 3-[4-(2-Acetylhydrazino)phenyl]-4-hydroxy-4-phenyl-thiazolidine-2-thione | 0.0028 mole, 1.0 g | C(C)(=O)NNC1=CC=C(C=C1)N1C(SCC1(C1=CC=CC=C1)O)=S | C17H17N3O2S2
reactant | water | 25 ml | O | H2O
catalyst | hydrochloric acid | 2 drops | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | 3-[4-( 2-Acetylhydrazino)phenyl]-4-phenyl-4-thiazoline-2-thione | C(C)(=O)NNC1=CC=C(C=C1)N1C(SC=C1C1=CC=CC=C1)=S | C17H15N3OS2
